US04431834
2-Methylsulphonyloxyindane (15.9 g) in methyl ethyl ketone (80 ml) was treated with potassium carbonate (15.53 g). The mixture was stirred and then n-propyl 2-(4-hydroxyphenoxy)propionate (16.8 g) in methyl ethyl ketone (20 ml) was added dropwise. The mixture was stirred at 90°-100° for 2.5 hours and was then poured into dilute hydrochloric acid. The mixture was extracted with ethyl acetate and the extract was washed thoroughly with water, dried and concentrated to an oil which semi-solidified on standing overnight. The oil was triturated with diethyl ether and petroleum ether. The mixture was filtered, and the filtrate concentrated to give an oil which was subjected to preparative thin layer chromatography on silica gel, eluting with chloroform/acetone/acetic acid (90:10:5), to give, as an oil, n-propyl 2-[4-(indan-2-yl-oxy)phenoxy]propionate (3.1 g).

reactant | 2-Methylsulphonyloxyindane | 15.9 g | CS(=O)(=O)OC1CC2=CC=CC=C2C1 | C10H12O3S
reactant | potassium carbonate | 15.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-propyl 2-(4-hydroxyphenoxy)propionate | 16.8 g | OC1=CC=C(OC(C(=O)OCCC)C)C=C1 | C12H16O4
reactant | hydrochloric acid | Cl | ClH
solvent | methyl ethyl ketone | 80 ml | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 20 ml | C(C)C(=O)C | C4H8O
product | n-propyl 2-[4-(indan-2-yl-oxy)phenoxy]propionate | 3.1 g | C1C(CC2=CC=CC=C12)OC1=CC=C(OC(C(=O)OCCC)C)C=C1 | C21H24O4
